US06545009B1
In the same manner as in Example 28, methyl 4-thiocarbamoylbenzoate was reacted with 2,3,4,5,6-pentafluorophenacyl bromide to obtain methyl 4-[4-(2,3,4,5,6-pentafluorophenyl)-2-thiazolyl]benzoate. The product was recrystallized from ethanol. Yield: 60%. Pale yellow prisms. Melting point: 141 to 142° C.

reactant | methyl 4-thiocarbamoylbenzoate | C(N)(=S)C1=CC=C(C(=O)OC)C=C1 | C9H9NO2S
reactant | 2,3,4,5,6-pentafluorophenacyl bromide | FC1=C(C(CBr)=O)C(=C(C(=C1F)F)F)F | C8H2BrF5O
product | methyl 4-[4-(2,3,4,5,6-pentafluorophenyl)-2-thiazolyl]benzoate | Yield: 60% | FC1=C(C(=C(C(=C1F)F)F)F)C=1N=C(SC1)C1=CC=C(C(=O)OC)C=C1 | C17H8F5NO2S
